US05134128
A mixture of 0.8 g. of 4-(1-hydroxytridecyl)-5-hydroxy-2(5H)-furanone and 43 ml of methanol with a catalytic amount of BF3.OEt2 (3 drops) is stirred under argon for 15 hours. The mixture is diluted with methylene chloride, washed with water and dried over magnesium sulfate. The mixture is filtered and the solvent removed in vacuo. The resulting oil is purified by flash chromatography to give 4-(1-hydroxytridecyl)-5-methoxy-2(5H)-furanone.

reactant | 4-(1-hydroxytridecyl)-5-hydroxy-2(5H)-furanone | OC(CCCCCCCCCCCC)C1=CC(OC1O)=O | C17H30O4
reactant | methanol | 43 ml | CO | CH4O
catalyst | BF3.OEt2 | 3 drops | B(F)(F)F.CCOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(1-hydroxytridecyl)-5-methoxy-2(5H)-furanone | OC(CCCCCCCCCCCC)C1=CC(OC1OC)=O | C18H32O4
